US04564619
To 10 ml of pyridine were added 0.9 g of 3-nitrobenzaldehyde and 2.7 g of N-(2-acetoacetoxyethyl)-N-cyclohexyl-4-(6-carbostyriloxy)butyramide, and the mixture was heated at 90°-100° C. for 20 hours. After cooling the reaction mixture was extracted with chloroform, and the chloroform layer was washed with a saturated aqueous solution of potassium hydrogensulfate and with a saturated aqueous solution of sodium chloride, then was dried with anhydrous magnesium sulfate. After being concentrated, the residue was purified by a silica gen column chromatography (eluant: chloroform/methanol=100/1), then the eluate was dried under vacuum condition to yield 0.2 g of N-{2-[2-(3-nitrobenzyliden)acetoacetoxy]ethyl}-N-cyclohexyl-4-(6-carbostyriloxy)butyramide in the form a brown oily substance.

reactant | 3-nitrobenzaldehyde | 0.9 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N-(2-acetoacetoxyethyl)-N-cyclohexyl-4-(6-carbostyriloxy)butyramide | 2.7 g | C(CC(=O)C)(=O)OCCN(C(CCCOC=1C=C2C=CC(NC2=CC1)=O)=O)C1CCCCC1 | C25H32N2O6
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-{2-[2-(3-nitrobenzyliden)acetoacetoxy]ethyl}-N-cyclohexyl-4-(6-carbostyriloxy)butyramide | 0.2 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCN(C(CCCOC=2C=C3C=CC(NC3=CC2)=O)=O)C2CCCCC2)C(=O)C)C=CC1 | C32H35N3O8
